US04992559
A solution of sodium methoxyethoxyethoxide (29.6 g, 0.2 mol) in methoxyethoxyethanol (100 ml) was added to a solution of 3-(bromomethyl)thiophene (12.4 g, 0.07 mol) in carbon tetrachloride (25 ml) and the mixture heated under reflux for 12 hours. Work-up as described in Example 1 gave a crude oil which was distilled under reduced pressure to yield 3-(methoxyethoxyethoxymethyl)thiophene (7.0 g, 46%), B.p. 136°-138° C./10 mm. Hg. (Found: C, 56.0; H, 7.0; S, 15.1. Calculated for C10H16O3S: C, 55.5; H, 7.4; S, 14.8%); EI m/e Intensity (%): 216 (12 M+), 97 (100, C4H3S.CH2); δH(CDCl3): 6.96-7.17 (3H, m), 4.45 (2H, s), 3.50 (4H, m), 3.40 (4H, m) and 3.26 (3H, s); δ C(CDCl3): 58.3, 66.1, 69.2, 70.2, 70.4, 71.7, 121.7, 125.2, 126.7, 139.6 ppm.

reactant | sodium methoxyethoxyethoxide | 0.2 mol, 29.6 g | COCCOC([O-])C.[Na+]
reactant | 3-(bromomethyl)thiophene | 0.07 mol, 12.4 g | BrCC1=CSC=C1 | C5H5BrS
reactant | methoxyethoxyethanol | 100 ml | COCCOC(C)O | C5H12O3
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(methoxyethoxyethoxymethyl)thiophene | 7.0 g, 46% | COCCOCCOCC1=CSC=C1 | C10H16O3S
